US07622463B2
Method J: 2-(benzylamino)-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (I-54)
To 2-Chloro-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (50 mg, 0.162 mmol) in nbutanol (2 ml), was added benzylamine (71 μl, 0.648 mmol) and diisopropylethylamine (113 μl, 0.648 mmol). The reaction mixture was heated to 140° C. in a microwave for 90 minutes. The crude mixture was concentrated in vacuo and purified by reverse phase preparative HPLC [Waters Sunfire C18, 10 uM, 100 Å column, gradient 10%-95% B (solvent A: 0.05% TFA in water; solvent B: CH3CN) over 16 minutes at 25 mL/min] to afford the title compound (33 mg) as an off-white powder. NMR DMSO D6 1.10 (6H, s), 1.46-1.58 (4H, m), 1.60-1.74 (4H, m), 3.13 (3H, s), 3.42 (2H, s), 4.52 (2H, d), 4.95-5.04 (1H, m), 7.24-7.30 (1H, m), 7.31-7.39 (4H, m), 7.83 (1H, s), 8.64 (1H, br s); HPLC rt(min): 10.36; MS (ES+) 380, (ES−) 378.

reactant | 2-Chloro-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.162 mmol, 50 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C15H21ClN4O
reactant | benzylamine | 0.648 mmol, 71 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | diisopropylethylamine | 0.648 mmol, 113 μl | C(C)(C)N(CC)C(C)C | C8H19N
product | 2-(benzylamino)-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 33 mg | C(C1=CC=CC=C1)NC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C22H29N5O
